US07179804B2
Add sodium borohydride (1.70 g, 0.045 mol) to a solution of 1-(3,5-bis-trifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester (5.0 g, 0.011 mol) in EtOH (70 mL) and heat the mixture to reflux. After 2 h, cool to RT and add the reaction mixture to 0.5 N HCl (200 mL) and methylene chloride (200 mL). Separate the layers and extract the aqueous layer with methylene chloride (50 mL). Dry the combined organic layers over MgSO4, filter, and concentrate to give [1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-methanol.

reactant | sodium borohydride | 0.045 mol, 1.70 g | [BH4-].[Na+]
reactant | 1-(3,5-bis-trifluoromethylbenzyl)-5-phenyl-1H-[1,2,3]triazole-4-carboxylic acid ethyl ester | 0.011 mol, 5.0 g | C(C)OC(=O)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C20H15F6N3O2
reactant | HCl | 0.5 N, 200 mL | Cl | ClH
reactant | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | EtOH | 70 mL | CCO | C2H6O
product | [1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-methanol | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)CO)C=C(C1)C(F)(F)F)(F)F | C18H13F6N3O
